US07125990B2
3-Ethoxycarbonylmethyl-1-(2,4,6-trimethyl-phenyl)-2-aminoimidazolium bromide, Scheme 3: (O)
To a mixture of 1-(2,4,6-trimethyl-phenyl)-imidazolidin-2-ylideneamine (3.00 g, 0.0148 mol) and aluminum tri-tert-butoxide (1.0 g, 0.0041 mol) in dimethylformamide (15 mL) was added ethyl bromoacetate (1.65 mL, 2.48 g, 0.00148 mol). The reaction mixture was allowed to stir at room temperature for 1 h, after which LC-MS indicated a 4:1 ratio of desired product to starting material. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give a pale orange-yellow solid, which was then treated twice with toluene to azeotropically remove any water. The solid was triturated with toluene, collected by filtration, and placed under high vacuum for 6 h. 1H NMR (CDCl3, 300 MHz) δ 7.01 (s, 2H), 4,87 (s, 2H), 4.29 (q, J=7 Hz, 2H), 3.96–3.89 (m, 4H), 2.32 (s, 3H), 2.25 (s, 6H), 1.34 (t, J=7 Hz, 3H). LC/MS: tR=0.92 min., (MH+)=290.43.

reactant | 1-(2,4,6-trimethyl-phenyl)-imidazolidin-2-ylideneamine | 0.0148 mol, 3.00 g | CC1=C(C(=CC(=C1)C)C)N1C(NCC1)=N | C12H17N3
reactant | aluminum tri-tert-butoxide | 0.0041 mol, 1.0 g | CC(C)([O-])C.CC(C)([O-])C.CC(C)([O-])C.[Al+3]
reactant | ethyl bromoacetate | 0.00148 mol, 1.65 mL, 2.48 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 3-Ethoxycarbonylmethyl-1-(2,4,6-trimethyl-phenyl)-2-aminoimidazolium bromide | [Br-].C(C)OC(=O)CN1C(=[N+](C=C1)C1=C(C=C(C=C1C)C)C)N | InChI=1S/C16H21N3O2.BrH/c1-5-21-14(20)10-18-6-7-19(16(18)17)15-12(3)8-11(2)9-13(15)4;/h6-9,17H,5,10H2,1-4H3;1H
